US07812045B2
(2R,3R)-2-(2,4-Difluorophenyl)-3-(2H-indazol-1-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol
To a suspension of indazole (0.059 g, 0.5 mmol), 1-(((2R,3S)-2-(2,4-difluorophenyl)-3-methyloxiran-2-yl)methyl)-1H-1,2,4-triazole (0.105 g, 0.416 mmol) in N,N′-dimethylformamide (2.5 ml) was added anhydrous potassium carbonate (0.069 g, 0.5 mmol), followed by radiating microwaves thereon with stirring at 180° C. for 5 min. Thereafter, the addition of water (0.5 ml) at 0° C. terminated the reaction. The reaction solution was diluted with ethyl acetate (10 ml) and washed with saturated ammonium chloride solution (10 ml) and then with brine (10 ml). The organic layer was dried over anhydrous magnesium sulfate and concentrated in a vacuum. The crude product was purified by chromatography on silica gel to give the title compound (Yield 44%).

reactant | indazole | 0.5 mmol, 0.059 g | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | 1-(((2R,3S)-2-(2,4-difluorophenyl)-3-methyloxiran-2-yl)methyl)-1H-1,2,4-triazole | 0.416 mmol, 0.105 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | potassium carbonate | 0.5 mmol, 0.069 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 0.5 ml | O | H2O
solvent | N,N′-dimethylformamide | 2.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(2,4-Difluorophenyl)-3-(2H-indazol-1-yl)-1-(1H-1,2,4-triazol-1-yl)butan-2-ol | Yield 44% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)N1NCC2=CC=CC=C12)O | C19H19F2N5O
